US08067590B2
3.1b 4-(Pyridin-2-ylmethoxy)-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one
To 150 mg (0.45 mmol) 1-[2-(4-hydroxymethyl-phenyl)-ethyl]-4-(pyridin-2-ylmethoxy)-1H-pyridin-2-one in 5.0 mL DCM is added 186 μL (1.34 mmol) triethylamine and subsequently 69 μL (0.89 mmol) methanesulfonyl chloride at RT. The reaction mixture is stirred 1 h at RT and 74 μL (0.89 mmol) pyrrolidine is added. The mixture is stirred overnight at RT and is directly transferred to a reverse HPLC for purification (Zorbax stable bond, C18; water (0.1% formic acid)/acetonitrile (0.1% formic acid) 95:5 to 10:90).

reactant | 1-[2-(4-hydroxymethyl-phenyl)-ethyl]-4-(pyridin-2-ylmethoxy)-1H-pyridin-2-one | 0.45 mmol, 150 mg | OCC1=CC=C(C=C1)CCN1C(C=C(C=C1)OCC1=NC=CC=C1)=O | C20H20N2O3
reactant | triethylamine | 1.34 mmol, 186 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.89 mmol, 69 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | 0.89 mmol, 74 μL | N1CCCC1 | C4H9N
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(Pyridin-2-ylmethoxy)-1-[2-(4-pyrrolidin-1-ylmethyl-phenyl)-ethyl]-1H-pyridin-2-one | N1=C(C=CC=C1)COC1=CC(N(C=C1)CCC1=CC=C(C=C1)CN1CCCC1)=O | C24H27N3O2
